US05260447
A solution of 16 mg of powdery 2-amino-4-(hydroxymethyl)-3a,5,6,6a-tetrahydro-4H-cyclopent[d]oxazole-4,5,6-triol dissolved in 2 ml of 6N aqueous hydrochloric acid was sealed in an ampoule and then hydrolyzed by heating at 100° C. for 24 hours. At the end of this time, water was added to the hydrolyzate, and the resulting mixture was concentrated to dryness by evaporation under reduced pressure. The residue was again dissolved in water, and the resulting solution was again concentrated to dryness, to remove the hydrochloric acid, and then the resulting residue was dissolved in 20 ml of water and the pH of the solution was adjusted to a value of 6.0 by the addition of a 1N aqueous solution of sodium hydroxide. The solution was passed through 20 ml of Amberlite CG-50 (NH4+) to hold the 5-amino-1-(hydroxymethyl)cyclopentane-1,2,3,4-tetraol by adsorption, and the column was washed with 60 ml of deionized water and then eluted with a 0.2N aqueous ammonia solution. The eluate was concentrated by evaporation under reduced pressure, to yield 5 ml of a concentrate. This concentrate was placed on a column packed with 50 ml of Dowex 1X2 (OH-), and the column was washed with 200 ml of deionized water and then eluted with 20% v/v aqueous methanol. The eluate was fractionated in 5 ml portions. Fractions 5-23, which exhibited an inhibitory activity against β-glucosidase were combined and concentrated by evaporation under reduced pressure. The concentrate was lyophilized to give 6.2 mg of 5-amino-1-(hydroxymethyl)cyclopentane-1,2,3,4-tetraol as a colorless powder having the properties described hereinabove.

reactant | 2-amino-4-(hydroxymethyl)-3a,5,6,6a-tetrahydro-4H-cyclopent[d]oxazole-4,5,6-triol | 16 mg | NC=1OC2C(N1)C(C(C2O)O)(O)CO | C7H12N2O5
reactant | water | O | H2O
solvent | hydrochloric acid | 6N, 2 ml | Cl | ClH
product | 5-amino-1-(hydroxymethyl)cyclopentane-1,2,3,4-tetraol | 6.2 mg | NC1C(C(C(C1(O)CO)O)O)O | C6H13NO5
